** sch_path: /foss/designs/ICONS2026/xschem/tb_boot3_ac.sch
**.subckt tb_boot3_ac
Vsup vdd GND vdd
Cm1 vtop vbot cb ic=vdd m=1
XM1 net1 vg net2 GND sg13_lv_nmos w=w l=0.13u ng=ng m=1
XM8 vg vdd net3 GND sg13_lv_nmos w=w4 l=0.13u ng=ng4 m=1
XM4 net3 GND GND GND sg13_lv_nmos w=w4 l=0.13u ng=ng4 m=1
XM6 vbot GND GND GND sg13_lv_nmos w=w6 l=0.13u ng=ng6 m=1
XM5 vtop vg vdd vtop sg13_lv_pmos w=w5 l=0.13u ng=ng5 m=1
Cw6 vtop GND cw6 m=1
Cw1 net2 GND cl m=1
Vsup1 net1 GND dc vcm ac 1
rbot net1 vbot 10 m=1
rtop vg vtop 10 m=1
Vsup2 net4 vbot vdd
L4 vtop net4 1meg m=1
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.param vdd=1.2 vcm=0.6
.param cl=1.3p cb=500f w=29u ng=4
.param w4=15u ng4=3 w5=6u ng5=1 w6=4u ng6=1 cw6=3.4f

.control
    op
    print allv
    ac dec 1000 1e5 250e6
    alter rbot=1k
    alter rtop=1k
    ac dec 100 1e5 250e6
    alter rbot=2k
    alter rtop=2k
    ac dec 100 1e5 250e6

    set color0=white    ; Set background to white
    set color1=black    ; Set grid and text to black
    set xbrushwidth=5
    plot ac1.v(vg) ac2.v(vg) ac3.v(vg) linear
.endc
.end


**** end user architecture code
**.ends
.GLOBAL GND
.end
